*SRC=BZT52C13;DI_BZT52C13;Diodes;Zener 10V-50V; 13.0V  0.500W   Diodes Inc. Zener 
*SYM=HZEN 
.SUBCKT DI_BZT52C13  1 2 
*        Terminals    A   K 
D1 1 2 DF 
DZ 3 1 DR 
VZ 2 3 12.4 
.MODEL DF D ( IS=15.8p RS=1.24 N=1.10 
+ CJO=51.5p VJ=1.00 M=0.330 TT=50.1n ) 
.MODEL DR D ( IS=3.17f RS=1.26 N=0.814 ) 
.ENDS